US07662830B2
2. 6-{4-[6-(4-Fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridine-2-carboxylic acid
To a solution of 6-{4-[6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-y)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridine-2-carboxylic acid methyl ester (300 mg, 0.595 mmol) in THF, add water dropwise until the cloudiness almost persists. To this mixture add LiOH.H2O (50 mg, 1.2 mmol). Heat the mixture at 50° C. for 2 h, and then concentrate under reduced pressure. Add a small amount of water to the residue. Adjust the final pH to 6 and collect the off-white solid via filtration. Wash the solid with water and dry to afford the title compound.

reactant | 6-{4-[6-(4-fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-y)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridine-2-carboxylic acid methyl ester | 0.595 mmol, 300 mg | COC(=O)C1=NC(=C(C=C1)C)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](CCC1)C)C | C28H33FN6O2
reactant | water | O | H2O
reactant | LiOH.H2O | 1.2 mmol, 50 mg | O[Li].O
solvent | THF | C1CCOC1 | C4H8O
product | 6-{4-[6-(4-Fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazin-1-yl}-5-methyl-pyridine-2-carboxylic acid | FC1=CC=C(C=C1)C1=CC(=NC(=N1)N1[C@@H](CCC1)C)N1[C@@H](CN(CC1)C1=C(C=CC(=N1)C(=O)O)C)C | C27H31FN6O2
